US05686459
7.B)c) (3aRS,4RS,8aSR,8bSR)-4-(2-Butyl-decahydro-1,3-dioxo-pyrrolo[3,4-a]pyrrolizin-4-yl)-benzonitrile was prepared analogously to Example 4.B)g) from 4-cyano-benzaldehyde, L-proline and N-butylmaleimide. Yellow oil. 1 H-NMR (DMSO-D6): 7.74 (d, ArH); 7.49 (d, ArH); 4.22 (d, 4-H).

reactant | 4-cyano-benzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-butylmaleimide | C(CCC)N1C(C=CC1=O)=O | C8H11NO2
product | (3aRS,4RS,8aSR,8bSR)-4-(2-Butyl-decahydro-1,3-dioxo-pyrrolo[3,4-a]pyrrolizin-4-yl)-benzonitrile | C(CCC)N1C(C2C(C(N3CCCC23)C2=CC=C(C#N)C=C2)C1=O)=O | C20H23N3O2
